US06096811
N-(1'-carboxy-2'-methylpropyl)-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide
To a suspension of bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride (2.01 g, 11.3 mmol) in H2O (25 mL) was added (dl)-valine (1.58 g, 13.5 mmol) and a solution of K2CO3 (934 mg, 6.8 mmol) in H2O (3 mL). The mixture was heated to reflux temperature and allowed to react for 4 hrs. After cooling to room temperature, the mixture was washed with EtOAc, acidified with conc. HCl until the pH reached 1 and extracted with EtOAc. The organic layer was washed with 5% HCl followed by brine and then dried over Na2SO4. Removal of the solvent gave a beige solid which was recrystallized from EtOAc/hexane to yield the product as off-white crystals: 1.72 g (55% yield), mp=156° C.

reactant | bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride | 11.3 mmol, 2.01 g | C12C3C(C(C=C1)CC2)C(=O)OC3=O | C10H10O3
reactant | (dl)-valine | 13.5 mmol, 1.58 g | NC(C(C)C)C(=O)O | C5H11NO2
reactant | K2CO3 | 6.8 mmol, 934 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 25 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
product | N-(1'-carboxy-2'-methylpropyl)-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide | 55% yield | C(=O)(O)C(C(C)C)N1C(=O)C2C3C=CC(C2C1=O)CC3 | C15H19NO4
